US07956075B2
32.2) 2-(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)ethylamine
tert-butyl 2-(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)ethylcarbamate (4.8 g; 0.013 mol) is stirred in 120 ml of a solution of ethyl acetate saturated in hydrochloric acid for 2 hours 30 minutes at a temperature of 55° C. The solid obtained is filtered and washed with ether. A light beige-coloured powder is obtained with a yield of 89%.

reactant | tert-butyl 2-(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)ethylcarbamate | 0.013 mol, 4.8 g | C1(=CC=C(C=C1)C=1N=C(NC1)CCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C22H25N3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | 2-(4-[1,1′-biphenyl]-4-yl-1H-imidazol-2-yl)ethylamine | yield of 89% | C1(=CC=C(C=C1)C=1N=C(NC1)CCN)C1=CC=CC=C1 | C17H17N3
